US08017602B2
Step v) N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-ethyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanamide
A solution of T3P (1.41 mL) dissolved in THF (1.57M) was added in one portion to a stirred solution of N-(2,2-dimethoxyethyl)cyclohexanamine (0.24 mL), 3-(3-(1-ethyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoic acid [Example 4, Step iv)] (0.45 g), and triethylamine (1.86 mL) in acetonitrile (5 mL) at 25° C. The resulting solution was stirred at 25° C. for 15 min. The reaction mixture was diluted with ethyl acetate (50 mL), and washed with saturated sodium hydrogen carbonate (20 mL). The organic layer was dried over magnesium sulfate, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 0-70% ethyl acetate in isohexane to afford the subtitled compound (0.46 g). 1H NMR (400 MHz, CD3OD) δ 8.32 and 8.31 (2×s, 1H), 7.68 and 7.66 (2×s, 1H), 7.65-7.61 (m, 1H), 7.32 and 7.32 (2×t, J=7.5 Hz, 1H), 7.22-7.18 (m, 1H), 4.52 and 4.36 (2×t, J=5.3 Hz, 1H), 4.47 (q, J=7.3 Hz, 2H), 4.04-3.94 (m, 1H), 3.76-3.61 (m, 4H), 3.34 (s, 3H), 3.32 (s, 3H), 3.25 (d, J=5.1 Hz, 2H), 2.91-2.85 (m, 2H), 2.68-2.62 (m, 2H), 1.79-1.03 (m, 10H), 1.56 (t, J=7.4 Hz, 3H), a ˜1:1 mixture of rotamers is observed.

reactant | T3P | 1.41 mL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | N-(2,2-dimethoxyethyl)cyclohexanamine | 0.24 mL | COC(CNC1CCCCC1)OC | C10H21NO2
reactant | 3-(3-(1-ethyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoic acid | C(C)N1N=NC(=C1)C=1C=C(CCOCCC(=O)O)C=CC1 | C15H19N3O3
reactant | triethylamine | 1.86 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 1.57M | C1CCOC1 | C4H8O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-ethyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanamide | 0.46 g | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C=1N=NN(C1)CC)=O)CC(OC)OC | C25H38N4O4
